US06313127B1
1-(4-Methoxycarbonylphenylmethyl)-4-(4-pyridyl)piperazine (4.5 g) was dissolved in methanol (50 ml) and treated at ambient temperature with 2M aqueous sodium hydroxide (36 ml). The resulting solution was stirred at room temperature for 3 hours and concentrated by evaporation to an aqueous solution of the sodium salt of the acid. This solution was just acidified with glacial acetic acid (4.3 ml) to give a white precipitate which was collected by filtration, washed with water and dried to give 1-(4-carboxyphenylmethyl)-4-(4-pyridyl)piperazine in 90% yield.

reactant | 1-(4-Methoxycarbonylphenylmethyl)-4-(4-pyridyl)piperazine | 4.5 g | COC(=O)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=NC=C1 | C18H21N3O2
reactant | sodium hydroxide | 2M, 36 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-carboxyphenylmethyl)-4-(4-pyridyl)piperazine | 90% yield | C(=O)(O)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=NC=C1 | C17H19N3O2
